US04814343
3-[1-(1H-imidazol-4-yl)pentyl]-2-hydroxybenzenemethanol;
4-[(4H-1,3-benzodioxin-8-yl)methyl]-1H-imidazole and the hydrochloride thereof;

reactant | 4-[(4H-1,3-benzodioxin-8-yl)methyl]-1H-imidazole | O1COCC2=C1C(=CC=C2)CC=2N=CNC2 | C12H12N2O2
reactant | hydrochloride | Cl | ClH
product | 3-[1-(1H-imidazol-4-yl)pentyl]-2-hydroxybenzenemethanol | N1C=NC(=C1)C(CCCC)C=1C(=C(C=CC1)CO)O | C15H20N2O2
